US09303007B2
To a mixture of (S)-tert-butyl 2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate (1.29 g, 33.1 mmol) and 2,6-dibromonaphthalene (446 mg, 1.56 mmol) in 1,2-dimethoxyethane (20 mL) and water (6 mL) was added NaHCO3 (787 mg, 9.36 mmol). The reaction mixture was degassed in vacuo for 10 minutes and was flushed with nitrogen. The catalyst Pd(Ph3P)4 (90 mg, 0.078 mmol) was added and the flask was capped and heated with an oil bath at 100° C. for 16 hours. The volatile component was removed in vacuo. The residue was partitioned between CH2Cl2 and water and the layers were separated. The aqueous phase was extracted several times with CH2Cl2 and the combined organic phases were dried (brine, Na2SO4), filtered and concentrated in vacuo. The resulting material was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 0-70% ethyl acetate/CH2Cl2) to afford tert-butyl 2-(5-(6-(2-(1-(tert-butoxycarbonyl)-2-pyrrolidinyl)-1H-benzimidazol-6-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate (605 mg) as yellow solid. LC-MS retention time 1.46 min; calcd. for C42H46N6O4: 698.36. found m/z 699.26 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA 1H NMR (500 MHz, MeOD) δ ppm 8.28 (br s, 2H), 8.13 (t, J=8.7 Hz, 4H), 8.05 (t, J=8.4 Hz, 2H), 7.92 (dd, J=14.8, 8.7 Hz, 4H), 5.20-5.36 (m, 2H), 3.70-3.84 (m, 2H), 3.57-3.70 (m, 2H), 2.54-2.70 (m, 2H), 2.18-2.28 (m, 2H), 2.14 (quin, J=6.9 Hz, 4H), 1.50 (s, 9H), 1.23 (s, 9H).

reactant | (S)-tert-butyl 2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate | 33.1 mmol, 1.29 g | CC1(OB(OC1(C)C)C=1C=CC2=C(NC(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1)C | C22H32BN3O4
reactant | 2,6-dibromonaphthalene | 1.56 mmol, 446 mg | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | NaHCO3 | 9.36 mmol, 787 mg | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | 6 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.078 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 2-(5-(6-(2-(1-(tert-butoxycarbonyl)-2-pyrrolidinyl)-1H-benzimidazol-6-yl)-2-naphthyl)-1H-benzimidazol-2-yl)-1-pyrrolidinecarboxylate | 605 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C=2C=C1C=CC(=CC1=CC2)C2=CC1=C(NC(=N1)C1N(CCC1)C(=O)OC(C)(C)C)C=C2 | C42H46N6O4
